US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-1-[4-(dimethylamino)butanoyl]-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-(dimethylamino)buta-noyl chloride, and 1-naphthylmethylamine the title compound was obtained in 85% purity by LC/MS. MS(ESI+): m/z=437.2.

reactant | (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | 4-(dimethylamino)buta-noyl chloride | CN(CCCC(=O)Cl)C | C6H12ClNO
reactant | 1-naphthylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | (2S,4EZ)-4-[(allyloxy)imino]-1-[4-(dimethylamino)butanoyl]-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(CCCN(C)C)=O)C(=O)NCC1=CC=CC2=CC=CC=C12 | C25H32N4O3
